US07868199B2
Synthesis of 4-methyl-1,1,1-trifluoro-2-trifluoromethyl-2,3-pentane diol
A flask was charged with 9.5 g of magnesium and 300 ml of tetrahydrofuran, to which 35.0 g of isopropyl chloride was added dropwise at 50° C. After the completion of dropwise addition, the contents were stirred for one hour at 60° C., and 22.6 g of methyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate was added dropwise below 50° C. The mixture was stirred for one hour at room temperature, after which an ammonium chloride aqueous solution was added. This was followed by ordinary work-up and vacuum distillation, obtaining 20.2 g of the target compound (yield 84%).

reactant | magnesium | 9.5 g | [Mg] | Mg
reactant | isopropyl chloride | 35.0 g | C(C)(C)Cl | C3H7Cl
reactant | methyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate | 22.6 g | OC(C(=O)OC)(C(F)(F)F)C(F)(F)F | C5H4F6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-methyl-1,1,1-trifluoro-2-trifluoromethyl-2,3-pentane diol | 20.2 g, yield 84% | CC(C(C(C(F)(F)F)(O)C(F)(F)F)O)C | C7H10F6O2
